US07199139B2
(S)-2-(4-Fluorophenoxy)-3-[4-[2-[[1-[4-(2-pyridyl)phenyl]ethylidene]aminoxy]ethoxy]phenyl]propionic acid
The target compound (1.16 g) was obtained as colorless crystals by carrying out the reaction and the post-treatment according to Reference example 7 using 2-trimethylsilylethyl (S)-2-(4-fluorophenoxy)-3-[4-[2-[[1-[4-(2-pyridyl)phenyl]ethylidene]aminoxy]ethoxy]phenyl]propionate (1.84 g) obtained from Reference example 18 and a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran (7.5 ml).

reactant | 2-trimethylsilylethyl (S)-2-(4-fluorophenoxy)-3-[4-[2-[[1-[4-(2-pyridyl)phenyl]ethylidene]aminoxy]ethoxy]phenyl]propionate | 1.84 g | FC1=CC=C(O[C@H](C(=O)OCC[Si](C)(C)C)CC2=CC=C(C=C2)OCCON=C(C)C2=CC=C(C=C2)C2=NC=CC=C2)C=C1 | C35H39FN2O5Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
product | (S)-2-(4-Fluorophenoxy)-3-[4-[2-[[1-[4-(2-pyridyl)phenyl]ethylidene]aminoxy]ethoxy]phenyl]propionic acid | FC1=CC=C(O[C@H](C(=O)O)CC2=CC=C(C=C2)OCCON=C(C)C2=CC=C(C=C2)C2=NC=CC=C2)C=C1 | C30H27FN2O5
